US09193723B2
4-[1-(cyclopropylsulfonyl)pyrrolidin-3-yl]-N-(imidazo[1,2-a]pyridin-7-ylmethyl)benzamide
The title compound was prepared as described in Example 557C, substituting cyclopropane sulfonyl chloride for propane-2-sulfonyl chloride and N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-(pyrrolidin-3-yl)benzamide for 4-(azetidin-3-yl)-N-(imidazo[1,2-a]pyridin-7-ylmethyl)benzamide. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.07 (t, J=5.9 Hz, 1H), 8.48 (dd, J=6.9, 0.9 Hz, 1H), 7.88 (m, 3H), 7.51 (d, J=1.2 Hz, 1H), 7.45 (m, 2H), 7.38 (m, 1H), 6.85 (dd, J=6.9, 1.7 Hz, 1H), 4.50 (d, J=5.9 Hz, 2H), 3.79 (dd, J=9.7, 7.5 Hz, 1H), 3.53 (m, 2H), 3.43 (m, 1H), 3.23 (m, 1H), 2.78 (m, 1H), 2.34 (m, 1H), 2.01 (m, 1H), 0.98 (m, 4H); MS (ESI(+)) m/e 425 (M+H)+.

reactant | propane-2-sulfonyl chloride | CC(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-(pyrrolidin-3-yl)benzamide | N=1C=CN2C1C=C(C=C2)CNC(C2=CC=C(C=C2)C2CNCC2)=O | C19H20N4O
reactant | 4-(azetidin-3-yl)-N-(imidazo[1,2-a]pyridin-7-ylmethyl)benzamide | N1CC(C1)C1=CC=C(C(=O)NCC2=CC=3N(C=C2)C=CN3)C=C1 | C18H18N4O
product | 4-[1-(cyclopropylsulfonyl)pyrrolidin-3-yl]-N-(imidazo[1,2-a]pyridin-7-ylmethyl)benzamide | C1(CC1)S(=O)(=O)N1CC(CC1)C1=CC=C(C(=O)NCC2=CC=3N(C=C2)C=CN3)C=C1 | C22H24N4O3S
